### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): define Copy

### PR DESCRIPTION
**Pull request by mitchell-horner**
Define the type `Copy` as the subtype of injective homomorphisms.

Also define

- the predicate that a simple graph contains another simple graph `IsContained` (equivalent to "is isomorphic to a subgraph of"),
- the predicate that a simple graph is free of another simple graph `Free` for convenience.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean [hunk 1]
```diff
@@ -0,0 +1,212 @@
...
+variable {V α β γ : Type*} {G : SimpleGraph V}
+  {A : SimpleGraph α} {B : SimpleGraph β} {C : SimpleGraph γ}
+
+section SubgraphIso
+
+/-- The type of subgraph isomorphisms as a subtype of *injective* homomorphisms.
+
+The notation `A ≲g B` is introduced for the type of subgrah isomorphisms. -/
+abbrev SubgraphIso (A : SimpleGraph α) (B : SimpleGraph β) :=
+  { f : A →g B // Function.Injective f }
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: I think having this (type-valued) definition is valuable, but I find the name pretty confusing here. To me, this is the type of non-induced copies of A inside B, rather than isomorphisms between A and a subgraph of B. As such, I'd prefer `Copy` or something here. But I'd also like others' input on the name

File: Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean [hunk 2]
```diff
@@ -0,0 +1,212 @@
...
+
+/-- The identity subgraph isomorphism from a simple graph to itself. -/
+@[refl] def refl (G : SimpleGraph V) : G ≲g G := ⟨Hom.id, Function.injective_id⟩
+
+/-- The subgraph isomorphism from a subgraph to the supergraph. -/
+def ofLE {G₁ G₂ : SimpleGraph V} (h : G₁ ≤ G₂) : G₁ ≲g G₂ :=
+  ⟨Hom.ofLE h, Function.injective_id⟩
+
+/-- The subgraph isomorphism from an induced subgraph to the initial simple graph. -/
+def induce (G : SimpleGraph V) (s : Set V) : (G.induce s) ≲g G :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:102]:
```suggestion
def induce (G : SimpleGraph V) (s : Set V) : G.induce s ≲g G :=
```

File: Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: As an extension, I'm also not convinced that `≲g` is helpful notation here: it looks too much like a prop-valued thing rather than data...

File: Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean [hunk 3]
```diff
@@ -0,0 +1,212 @@
...
+
+/-- The subgraph isomorphism from a `Subgraph G` coercion to `G`. -/
+def Subgraph.subgraphIso (G' : G.Subgraph) : (G'.coe) ≲g G :=
+  G'.hom.toSubgraphIso Subgraph.hom.injective
+
+end SubgraphIso
+
+section IsIsoSubgraph
+
+/-- The relation that a simple graph contains a copy of a simple graph. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:125]:
```suggestion
/-- The relation `IsIsoSubgraph A B` says that a simple graph `B` contains a copy of a simple graph `A`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean (hunk 1 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: > I think having this (type-valued) definition is valuable, but I find the name pretty confusing here. To me, this is the type of non-induced copies of A inside B, rather than isomorphisms between A and a subgraph of B. As such, I'd prefer `Copy` or something here. But I'd also like others' input on the name

There doesn't seem to be a consistent name for injective graph homomorphisms. I've seen "graph embedding", "graph monomorphism", and "subgraph isomorphism". The first is taken. The second is common to category theory. [The third is used by Wolfram.](https://www.wolframalpha.com/input?i=FindSubgraphIsomorphism) (The third is also used by GPT-4o mini when asked about the subgraph isomorphism decision problem, not that it should be any authority on the topic.)

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: Inspired by some code @YaelDillies shared with me, `LabelledCopy` might also be an option.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: I picked `IsIsoSubgraph` first, as `A.IsIsoSubgraph B` reads like "A is isomorphic to a subgraph of B". I picked `SubgraphIso` second, as `IsIsoSubgraph (A) (B) := Nonempty (SubgraphIso A B)`  reads like "A is isomorphic to a subgraph of B" := "the type of subgraph isomorphisms from A to B is nonempty" and that is often how the decision problem is phrased.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: > As an extension, I'm also not convinced that `≲g` is helpful notation here: it looks too much like a prop-valued thing rather than data...

I'll drop this in the same commit as the rename.

File: Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean (hunk 2 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:102]: I'll resolve this in the commit dropping `≲g`.

**Comment by YaelDillies** [comment]
Can you merge master? This will fix the bot

**Comment by kbuzzard** [comment]
@mitchell-horner can you merge master and resolve all comments which you have dealt with?

**Comment by mitchell-horner** [comment]
@kbuzzard I've been waiting for others' input on the name `SubgraphIso`. Feel free to weigh in. 😁

File: Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: I think `Copy` is a good name, yes. Mind renaming?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/SubgraphIso.lean:50]: > I think `Copy` is a good name, yes. Mind renaming?

That's the others' input I've been waiting for. Thanks @YaelDillies. :grin:

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 4]
```diff
@@ -0,0 +1,203 @@
...
+
+/-- The type of copies as a subtype of *injective* homomorphisms. -/
+abbrev Copy (A : SimpleGraph α) (B : SimpleGraph β) :=
+  { f : A →g B // Function.Injective f }
+
+/-- An injective homomorphism gives rise to a copy. -/
+abbrev Hom.toCopy (f : A →g B) (h : Function.Injective f) : Copy A B := ⟨f, h⟩
+
+/-- An embedding gives rise to a copy. -/
+abbrev Embedding.toCopy (f : A ↪g B) : Copy A B := Hom.toCopy f.toHom f.injective
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:47]:
```suggestion
abbrev Embedding.toCopy (f : A ↪g B) : Copy A B := f.toHom.toCopy f.injective
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 5]
```diff
@@ -0,0 +1,203 @@
...
+
+/-- An isomorphism gives rise to a copy. -/
+abbrev Iso.toCopy (f : A ≃g B) : Copy A B := Embedding.toCopy f.toEmbedding
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:50]:
```suggestion
abbrev Iso.toCopy (f : A ≃g B) : Copy A B := f.toEmbedding.toCopy
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 6]
```diff
@@ -0,0 +1,203 @@
...
+/-- A copy induces an embedding of neighbor sets. -/
+def mapNeighborSet (f : Copy A B) (a : α) :
+    A.neighborSet a ↪ B.neighborSet (f a) where
+  toFun v := ⟨f v, f.toHom.apply_mem_neighborSet v.prop⟩
+  inj' _ _ h := by
+    rw [Subtype.mk_eq_mk] at h ⊢
+    exact f.injective h
+
+/-- A copy gives rise to an embedding of vertex types. -/
+def asEmbedding (f : Copy A B) : α ↪ β := ⟨f, f.injective⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:81]:
```suggestion
def toEmbedding (f : Copy A B) : α ↪ β := ⟨f, f.injective⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 7]
```diff
@@ -0,0 +1,203 @@
...
+
+/-- The identity copy from a simple graph to itself. -/
+@[refl] def refl (G : SimpleGraph V) : Copy G G := ⟨Hom.id, Function.injective_id⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:84]:
```suggestion
@[refl] def id (G : SimpleGraph V) : Copy G G := ⟨Hom.id, Function.injective_id⟩
```
maybe?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 8]
```diff
@@ -0,0 +1,203 @@
...
+
+/-- The copy from a subgraph to the supergraph. -/
+def ofLE {G₁ G₂ : SimpleGraph V} (h : G₁ ≤ G₂) : Copy G₁ G₂ :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:87]:
```suggestion
def ofLE (G₁ G₂ : SimpleGraph V) (h : G₁ ≤ G₂) : Copy G₁ G₂ :=
```
to avoid the knowledge of which graphs we're talking about being hidden inside an elided proof term

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 9]
```diff
@@ -0,0 +1,203 @@
...
+  ⟨Hom.ofLE h, Function.injective_id⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:88]: Can you show `ofLE` is functorial?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 10]
```diff
@@ -0,0 +1,203 @@
...
+  G'.hom.toCopy Subgraph.hom.injective
+
+end Copy
+
+section IsIsoSubgraph
+
+/-- The relation `IsIsoSubgraph A B` says that `B` contains a copy of `A`.
+
+This is equivalent to the existence of an isomorphism from `A` to a subgraph of `B`. -/
+abbrev IsIsoSubgraph (A : SimpleGraph α) (B : SimpleGraph β) := Nonempty (Copy A B)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:117]: Could you adopt [my `IsContained` API](https://github.com/YaelDillies/LeanCamCombi/blob/master/LeanCamCombi/ExtrProbCombi/Containment.lean) here?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 11]
```diff
@@ -0,0 +1,203 @@
...
+
+end IsIsoSubgraph
+
+section Free
+
+/-- The proposition that a simple graph does not contain a copy of another simple graph. -/
+abbrev Free (A : SimpleGraph α) (B : SimpleGraph β) := ¬A.IsIsoSubgraph B
+
+/-- If `A ≃g B`, then `C` is `A`-free if and only if `C` is `B`-free. -/
+theorem free_iff_of_iso (f : A ≃g B) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:196]:
```suggestion
theorem free_congr (e : A ≃g B) :
```

**Comment by YaelDillies** [comment]
I still think `IsContained` is a better name than `IsIsoSubgraph`. What do you think, @b-mehta ?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 12]
```diff
@@ -0,0 +1,214 @@
...
+
+alias ⟨exists_iso_subgraph, _⟩ := isContained_iff_exists_iso_subgraph
+
+end IsContained
+
+section Free
+
+/-- The proposition that a simple graph does not contain a copy of another simple graph. -/
+abbrev Free (A : SimpleGraph α) (B : SimpleGraph β) := ¬A ⊑ B
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:200]:
```suggestion

lemma not_free : ¬A.Free B ↔ A ⊑ B := not_not

```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 13]
```diff
@@ -0,0 +1,214 @@
...
+  exact ⟨⟨ι, isEmptyElim ∘ fun hadj ↦ (⟨s(_, _), hadj⟩ : A.edgeSet)⟩, ι.injective⟩
+
+lemma bot_isContained (f : α ↪ β) : (⊥ : SimpleGraph α) ⊑ B := ⟨⟨f, False.elim⟩, f.injective⟩
+
+/-- A simple graph `G` contains all `Subgraph G` coercions. -/
+lemma Subgraph.coe_isContained (G' : G.Subgraph) : G'.coe ⊑ G := ⟨G'.coeCopy⟩
+
+/-- The isomorphism from `Subgraph A` to its map under a copy `Copy A B`. -/
+noncomputable def Subgraph.isoMap (f : Copy A B) (A' : A.Subgraph) :
+    A'.coe ≃g (A'.map f.toHom).coe := by
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:181]: That's worrying because that def is one of the few things I took from the code you sent me.  😅

https://github.com/YaelDillies/LeanCamCombi/blob/master/LeanCamCombi/Mathlib/Combinatorics/SimpleGraph/Subgraph.lean

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 14]
```diff
@@ -0,0 +1,214 @@
...
+
+/-- The proposition that a simple graph does not contain a copy of another simple graph. -/
+abbrev Free (A : SimpleGraph α) (B : SimpleGraph β) := ¬A ⊑ B
+
+/-- If `A ≃g B`, then `C` is `A`-free if and only if `C` is `B`-free. -/
+theorem free_congr (e : A ≃g B) : A.Free C ↔ B.Free C := by
+  rw [not_iff_not]
+  exact isContained_congr e
+
+lemma free_bot (h : A.edgeSet.Nonempty) : A.Free (⊥ : SimpleGraph β) := by
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:206]: If you meant `⊤`, I don't think that is possible.

```
example : ¬(⊥ : SimpleGraph (Fin 2)).Free (⊥ : SimpleGraph (Fin 2)) ∧ (⊥ : SimpleGraph (Fin 2)) ≠ (⊤ : SimpleGraph (Fin 2)) := by
  and_intros
  · rw [not_free]
    exact IsContained.rfl
  · exact bot_ne_top
```

If you meant `⊥`, I don't think that is possible.
```
example : (⊥ : SimpleGraph (Fin 2)).Free (⊥ : SimpleGraph (Fin 1)) ∧ ¬(⊥ : SimpleGraph (Fin 2)) ≠ (⊥ : SimpleGraph (Fin 2)) := by
  and_intros
  · by_contra! h
    absurd Nat.one_lt_two
    obtain ⟨f, hf⟩ := h
    simpa using card_le_of_injective f hf
  · tauto
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 15]
```diff
@@ -0,0 +1,214 @@
+/-
+Copyright (c) 2025 Mitchell Horner. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mitchell Horner
```
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:4]: I took `Subgraph.isoMap` for the proof of `isContained_iff_exists_iso_subgraph` when you sent me the code on the original PR. The proof is shorter using that definition. (Thanks. 😁)

These results are pretty self-evident tbh and there aren't many ways to formalize them. I'd wager anyone formalizing this 1 definition would likely end up with a similar looking 40 lines of code as well (especially if you renamed everything 😅).

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 16]
```diff
@@ -0,0 +1,223 @@
...
+/-- A simple graph having no vertices is contained in any simple graph. -/
+lemma IsContained.of_isEmpty [IsEmpty α] : A ⊑ B :=
+  ⟨⟨isEmptyElim, fun {a} ↦ isEmptyElim a⟩, isEmptyElim⟩
+
+/-- A simple graph having no edges is contained in any simple graph having sufficent vertices. -/
+theorem isContained_of_isEmpty_edgeSet [IsEmpty A.edgeSet] [Fintype α] [Fintype β]
+    (h : card α ≤ card β) : A ⊑ B := by
+  haveI := Function.Embedding.nonempty_of_card_le h
+  let ι : α ↪ β := Classical.arbitrary (α ↪ β)
+  exact ⟨⟨ι, isEmptyElim ∘ fun hadj ↦ (⟨s(_, _), hadj⟩ : A.edgeSet)⟩, ι.injective⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:175]: This is the same as `bot_isContained` but less convenient/idiomatic. Can you remove?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 17]
```diff
@@ -0,0 +1,223 @@
...
+
+@[inherit_doc] scoped infixl:50 " ⊑ " => SimpleGraph.IsContained
+
+/-- A simple graph contains itself. -/
+@[refl] protected theorem IsContained.refl (G : SimpleGraph V) : G ⊑ G := ⟨.id G⟩
+
+protected theorem IsContained.rfl : G ⊑ G := IsContained.refl G
+
+/-- A simple graph contains its subgraphs. -/
+theorem isContained_of_le (h : G₁ ≤ G₂) : G₁ ⊑ G₂ := ⟨Copy.ofLE G₁ G₂ h⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:144]:
```suggestion
theorem IsContained.of_le (h : G₁ ≤ G₂) : G₁ ⊑ G₂ := ⟨.ofLE G₁ G₂ h⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:186]: I'll rename to `Subgraph.Copy.map`. This name reminds me of 
```
Iso.map (f : V ≃ W) (G : SimpleGraph V) : G ≃g G.map f.toEmbedding
```
which is similar to what is going on here.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 16 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:175]: I had this for golfing (`simp` can finish the goals). I'll replace it with something like
```
bot_isContained_of_card_le [Fintype α] [Fintype β] (h : card α ≤ card β) : (⊥ : SimpleGraph α) ⊑ B
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 18]
```diff
@@ -0,0 +1,225 @@
...
+
+instance : FunLike (Copy A B) α β where
+  coe f := DFunLike.coe f.toHom
+  coe_injective' _ _ h := Subtype.val_injective (DFunLike.coe_injective h)
+
+@[simp] lemma coe_toHom_apply (f : Copy A B) (a : α) : ⇑f.toHom a = f a := rfl
+
+/-- A copy induces an embedding of edge sets. -/
+def mapEdgeSet (f : Copy A B) : A.edgeSet ↪ B.edgeSet where
+  toFun := Hom.mapEdgeSet f.toHom
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:74]:
```suggestion
  toFun := f.toHom.mapEdgeSet
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 19]
```diff
@@ -0,0 +1,225 @@
...
+
+/-- The copy from a subgraph to the supergraph. -/
+def ofLE (G₁ G₂ : SimpleGraph V) (h : G₁ ≤ G₂) : Copy G₁ G₂ := ⟨Hom.ofLE h, Function.injective_id⟩
+
+@[simp, norm_cast]
+theorem coe_comp (g : Copy B C) (f : Copy A B) : ⇑(g.comp f) = g ∘ f := by ext; simp
+
+@[simp, norm_cast] lemma coe_ofLE (h : G₁ ≤ G₂) : ⇑(ofLE G₁ G₂ h) = _root_.id := rfl
+
+@[simp] theorem ofLE_refl : ofLE G G (le_refl G) = id G := by ext; simp
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:111]:
```suggestion
@[simp] theorem ofLE_refl : ofLE G G le_rfl = id G := by ext; simp
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 20]
```diff
@@ -0,0 +1,225 @@
...
+  ⟨⟨f, False.elim⟩, f.injective⟩
+
+protected alias IsContained.bot_of_embedding := bot_isContained_of_embedding
+
+@[inherit_doc bot_isContained_of_embedding]
+lemma bot_isContained_of_card_le [Fintype α] [Fintype β] (h : card α ≤ card β) :
+    (⊥ : SimpleGraph α) ⊑ B :=
+  bot_isContained_of_embedding (Function.Embedding.nonempty_of_card_le h).some
+
+protected alias IsContained.bot_of_card_le := bot_isContained_of_card_le
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:181]: I don't think we need the `α ↪ β` version given that we have the `card α ≤ card β` one

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:181]: I've turned them both into iff statements which is a bit nicer. I think these iff versions are better and both valuable (`bot_isContained_iff_nonempty` a bit more valuable than `bot_isContained_iff_card_le` since the latter is just `bot_isContained_iff_nonempty.trans Function.Embedding.nonempty_iff_card_le`.)

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Not sure I follow your reasoning: `bot_isContained_iff_card_le` a bit more valuable than `bot_isContained_iff_nonempty` since the latter is just `bot_isContained_iff_card_le.trans Function.Embedding.nonempty_iff_card_le.symm`.

Of course I am playing the devil's advocate here, but my point is that `Nonempty (α \hookr β)` is *weird*, and the idiomatic way to state it is instead `card α <= card β`.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Ah yeah I see your point. The reasoning was to have something similar to  `Embedding.completeGraph` (and `Iso.completeGraph`) that takes an embedding and returns a map between graphs, but for containment.

In this case `Copy.bot (f : α ↪ β) : Copy (⊥ : SimpleGraph α) B` is probably what I'm after (taking an embedding and returning a map between graphs).

I'll add `Copy.bot` and remove `bot_isContained_iff_nonempty`.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by b-mehta** [comment]
Thanks!

bors d+
